US04556711
A solution of 5-(4-benzyloxycarbonylaminophenyl)-2(1H)-pyrazinone (1.1 g) in 15% w/v hydrogen bromide in acetic acid solution (30 ml) was refluxed for 30 min. The yellow precipitate which formed was filtered off and it was washed with a little 1-propanol and then recrystallised from ethanol-water containing 2 drops of concentrated hydrobromic acid to give 5-(4-aminophenyl)-2(1H)-pyrazinone hydrobromide (1.03 g m.p.>300° C.).

reactant | 5-(4-benzyloxycarbonylaminophenyl)-2(1H)-pyrazinone | 1.1 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)C=1N=CC(NC1)=O | C18H15N3O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-(4-aminophenyl)-2(1H)-pyrazinone hydrobromide | 1.03 g | Br.NC1=CC=C(C=C1)C=1N=CC(NC1)=O | InChI=1S/C10H9N3O.BrH/c11-8-3-1-7(2-4-8)9-5-13-10(14)6-12-9;/h1-6H,11H2,(H,13,14);1H
